US05872115
Step 1): Bromodiphenylmethane (2.5 g, 0.01 mol) in DMF (10 ml) was added dropwise at 0°-5° C. to a mixture of isonipecotamide (1.3 g, 0.01 mol) and K2CO3 (1.4 g) in DMF (25 ml). The reaction mixture was stirred for 2 hours at 0°-5° C., then poured into water. The mixture was extracted with ethylether, then the extract was washed with brine, dried (MgSO4) and evaporated to give 1-diphenylmethylpiperidine-4-carboxamide (66%): mp 150° C.

reactant | Bromodiphenylmethane | 0.01 mol, 2.5 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | isonipecotamide | 0.01 mol, 1.3 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | K2CO3 | 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-diphenylmethylpiperidine-4-carboxamide | 66% | C1(=CC=CC=C1)C(N1CCC(CC1)C(=O)N)C1=CC=CC=C1 | C19H22N2O
